*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************	
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: AMC1351
* Precision, 5-V Input, Reinforced Isolated Amplifier
* Date: 11/30/2021
* Model Type: TINA
* Simulator: TINA-TI
* Simulator Version: 9.3.200.277 SF-TI
* Datasheet: SBASAA8 - FEBRUARY 2021
*
*****************************************************************************
* version 1.0:
*
*****************************************************************************	
* AMC1351 SUBCIRCUIT
* Precision, 5-V Input, Reinforced Isolated Amplifier
* source AMC1351

.SUBCKT AMC1351 VDD1 IN GND1 GND2 OUTN OUTP VDD2
XDFilter    POut1_10 VOCM NOut1 INP GND2 DFilter_0
XFilter     POut1_10 NOut1 GND2 VDD2 OUTN VOCM OUTP Filter_Block_0
XD4         GND2 OUTN D_D2_0
XD3         OUTN VDD2 D_D2_0
XD2         GND2 OUTP D_D2_0
XD1         OUTP VDD2 D_D2_0
XGain       POut1_12 GND1 VDD1 GND1 VDD2 GND2 INP GND2 FSO VGAIN_0
R3          GND2 GND1 2T 
C1          GND2 GND1  750F 
RIO         VDD2 VDD1 2T 
CIO         VDD2 VDD1  750F 
XInput      IN GND1 GND2 GND1 FSO VDD1 GND1 POut1_12 Input_circuit_0
.ENDS

.SUBCKT DFilter_0 POut1 VOCM NOut1 INP GND2
R25         14 GND2 1 
GVCCS3      14 GND2 15 GND2  -1
GVCCS2      NOut1 VOCM VALUE = {0.5*V(14,GND2)}
GVCCS1      VOCM POut1 VALUE = {0.5*V(14,GND2)}
R22         VOCM NOut1 1 
R21         POut1 VOCM 1 
R6          16 INP 200K 
C6          15 GND2  428.833333F 
C4          14 16  885.333333F 
R5          15 16 200K 
.ENDS

.SUBCKT Filter_Block_0 INP INN GND2 VDD2 VOUTN VOCM VOUTP
VPSref      28 GND2 3.3
R21ops      24 0 59 
L2ops       24 0  15.650236U 
R1          25 24 1 
R11ops      26 0 59 
L1ops       26 0  62.600944U 
R1ops       27 26 1 
G2ops       0 25 27 0  1
G1ops       0 27 28 VDD2  13.976698U
XOutputp VM_18 Neg_29 IGND_22 Bias IAVDD_23 VOUTP VDD2 Plus_30 GND2 Vt0p Vt0 
+ Output_0 
C7          31 32  3.02214P 
EVCVS2      31 GND2 34 GND2  1
EVCVS1      33 GND2 35 GND2  1
R16         36 INP 200K 
C8          35 34  1.239852P 
R15         32 INN 200K 
R14         34 32 200K 
C5          33 36  3.02214P 
R11         35 36 200K 
XOutputn VM_18 Neg_37 IGND_22 Bias IAVDD_23 VOUTN VDD2 Plus_38 GND2 Vt0p Vt0 
+ Output_0 
R8          39 33 200K 
R22ops      40 0 10 
C2ops       Veps_17 40  1.607626N 
Epsp        VOCM Plus_30 Veps_17 0  -1
Epsn        Plus_38 VOCM Veps_17 0  -1
R3ops       Veps_17 0 990 
G3ops       0 Veps_17 25 0  1.010101M
C3          39 41  3.95203P 
R7          41 31 200K 
C4          VOUTP Neg_29  852.398524F 
R6          Neg_29 41 100K 
R5          VOUTP 41 200K 
C2          VOUTN Neg_37  852.398524F 
R3          Neg_37 39 100K 
R2          VOUTN 39 200K 
XBias       IAVDD_23 VDD2 IGND_22 GND2 Bias VM_18 Vt0p Vt0 VOCM Bias_0
.ENDS

.SUBCKT Output_0 VM Neg IGND Bias IAVDD OUT VDD2 Plus GND2 Vt0p Vt0
Vo21        IAVDD 50 695.218247M
Vo22        46 IGND 695.218247M
XD5         VGP_43 VDD2 D_LIM100_05_0
XD3         GND2 VGN_44 D_LIM100_05_0
XD6         45 VGP_43 D_LIM100_05_0
XD1         46 VV_42 D_LIM1_0
XD4         VGN_44 47 D_LIM100_05_0
RO2         VDD2 48 10 
RO1         49 GND2 10 
XD2         VV_42 50 D_LIM1_0
C33         VV_42 VM  15.915494F 
XT7         OUT VGP_43 48 VDD2 Q_PMOS_OUT_L1_0
+ PARAMS: M=25 W=20U L=0.8U
XT2         OUT VGN_44 49 GND2 Q_NMOS_OUT_L1_0
+ PARAMS: M=25 W=20U L=0.8U
EVMP2       VDD2 45 VALUE = {LIMIT(1.06*V(VDD2,Vt0p),0,V(VDD2,GND2))}
EVMN2       47 GND2 VALUE = {LIMIT(1.06*V(Vt0,GND2),0,V(VDD2,GND2))}
Ro23        VM Neg 100G 
Ro22        Plus VM 100G 
Ro21        Neg Plus 1G 
Co21        Neg Plus  10F 
Rdn2        VGP_43 Vt0p 2.041402MEG 
Gdn2        Vt0p VGP_43 VM VV_42  146.95U
Rdn1        VGN_44 Vt0 2.041402MEG 
Gdn1        Vt0 VGN_44 VM VV_42  146.95U
Cf5         OUT VGN_44  1P 
Cf4         VGP_43 OUT  1P 
Co23        VM Neg  10F 
RCo23_RPAR  VM Neg 1T
Co22        Plus VM  10F 
RCo22_RPAR  Plus VM 1T
R83         VV_42 VM 100K 
G23         VM VV_42 Plus Neg  10U
.ENDS

.SUBCKT Bias_0 IAVDD VDD2 IGND GND2 Bias VM Vt0p Vt0 VOCM
VS2         65 61 1.2
EVMP1       Vt0p VDD2 VALUE = {V(60,VDD2)*V(62,IGND)}
EVMN1       Vt0 GND2 VALUE = {V(61,GND2)*V(62,IGND)}
XU2         VDD2 GND2 62 IGND HYSTCOMPGD_0
+ PARAMS: VTHRES=2.65 VHYST=50M VOUTH=1 VOUTL=0 ROUT=100 DELAY=100N
XU5         0 Vocmtemp VOCMTEMP_0
EVSOCM      VOCM GND2 VALUE = {LIMIT(V(Vt0,GND2)*2,0,(1.4445-1.3636M*V(VDD2,GND2))*V(Vocmtemp,0))}
GIb2        IGND Bias VALUE = {48.98M*V(VDD2,GND2)+730.612M}
Rb3         Bias IGND 1 TC=970U,-77N
R3          61 GND2 10MEG 
R2          VDD2 60 10MEG 
EVCVS1      VM IGND VALUE = {0.5*V(IAVDD,IGND)}
EAVDD       IAVDD IGND VALUE = {5*V(Bias,IGND)}
EGND        IGND 0 GND2 0  1
EBMG        66 GND2 Vt0 GND2 1
XT4         60 60 VDD2 VDD2 Q_PMOS_OUT_L1_1
+ PARAMS: M=1 W=10U L=4U 
XT1         VT1 66 GND2 GND2 Q_NMOS_OUT_L1_1
+ PARAMS: M=9 W=21U L=0.8U
XT3         61 61 GND2 GND2 Q_NMOS_OUT_L1_2
+ PARAMS: M=1 W=10U L=4U 
XD2         65 60 D_LIM1_1
Rsp1        VDD2 VT1 2.111111K 
GIb1        60 61 Bias IGND  10U
Rpsrr1      60 61 10MEG 
.ENDS

.SUBCKT Input_circuit_0 VINP VINN GND2 NOut1 FSO VDD1 GND1 POut1
VPSref      80 GND1 5
XD4         GND1 VINP D_ZR_16V0_0
XBias       GND1 IGND_69 IAVDD_72 VM_67 VDD1 SHTDN Bias_1
XU1         74 IGND_69 FSO IGND_69 HYSTCOMPG_THLRF_0
+ PARAMS: VOUTH=1 VOUTL=0 ROUT=100 TDLH=48U TDHL=1U TRISE=1N TFALL=1N VTHRES=0.5
+ VHYST=100m
C3          VINP GND1  4P
XU_1        VINP GND1 VDD1 GND1 IIB_0
Rin1        VLCM GND1 R_RES_1 250K 
Rin2        VINP VLCM R_RES_1 1MEG 
GVCCS1      IGND_69 74 VALUE = {IF(V(SHTDN,IGND_69)<0.5,1,0)}
R11         74 IGND_69 1 
XU2         VDD1 GND1 SHTDN IGND_69 HYSTCOMPGD_1
+ PARAMS: VTHRES=2.65 VHYST=50M VOUTH=1 VOUTL=0 ROUT=100 DELAY=100N
Eios        VLCM POut1 VALUE = {V(Venoise,0)+50.1187N*V(GND1,GND2)+V(VOS,0)+V(Veps_70,0)}
L3          75 0  3.248354U 
R10         75 0 999 
R9          Venoise 75 1 
Gnoise      0 Venoise 0 76  1.080232
L2          77 0  2.785212U 
R8          77 0 7 
R7          78 77 1 
G88ps       0 78 0 Veps_70  1
R6          79 0 9 
L1          79 0  2.864789U 
R5          Veps_70 79 1 
G8ps        0 Veps_70 80 VDD1  281.170663U
XU5         0 VOS VOST_0
Rnoise2     76 0 4.8263MEG 
Rnoise1     76 0 4.8263MEG 

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)

.ENDS

.SUBCKT Bias_1 GND1 IGND IAVDD VM VDD1 SHTDN
Rp1         VDD1 GND1 3.846154MEG TC=-6M,22U
GIS1        82 GND1 VALUE = {(5.4896M*(973.4933M+TEMP*1060.3U)+V(82,GND1)/1.5625K)*(V(SHTDN,GND1))}
EVSVM       VM IGND IAVDD IGND  400M
EAVDD       IAVDD IGND VALUE = {LIMIT(5*(V(VDD1,GND1)-1.4),5,0)}
Rs4         82 GND1 1.5625G TC=-6M,22U
XD1         GND1 82 D_D4_0
XDZb1       82 VDD1 D_ZB1_0
EGND        IGND 0 GND1 0  1
.ENDS

.SUBCKT D_D2_0 1    2
D1 1 2  D2
.MODEL D2 D( IS=100p N=1.0 XTI=0 RS=10)
.ENDS
*

.SUBCKT VGAIN_0 INP INN VDD1 GND1 VDD2 GND2 OUTP OUTN FSO
*EG Gain error

*AMC1351, Initial, at TA = 25°C –0.2% ±0.05%(1) 0.2%
*TCEG Gain error drift ppm/°C
*AMC1351, ±10(1) 
.PARAM TCGERR0= {-10E-6}
.PARAM TCGERRB= {-15E-6}
.PARAM TCGERR= {TCGERR0}
.PARAM EG0= {0.05/100}  ;AMC1351
.PARAM EGB= {0.063/100} ;
.PARAM EG= { EG0 }
.PARAM Gin={8.2/2}
.PARAM Gout={1.0}
.PARAM G={8.2} 
.PARAM RG1= {0.01}
.PARAM RG2= {1/Gin*K0}
.PARAM I0 = 1
.PARAM R0 = {1/(I0*Gout)/K0}
.PARAM Rout = {R0*(1 + 2*TCGERR + EG - 1.435m/100)}
.PARAM TC1= {TCGERR}
.PARAM K0={8.2/1}
.PARAM K={1.0*K0}
.PARAM C25={56.0014427*K}
.PARAM B25={0.146489/K}
.PARAM C125={47.45704}
.PARAM B125={0.17289}

*.PARAM MC={(C125-C25)/100}
.PARAM MC={0}
.PARAM C0={C25 - MC}
*.PARAM MB={(B125-B25)/100}
.PARAM MB={0}
.PARAM B0={B25 - MB}

.PARAM A0={-0.010854}
.PARAM D0={0.088938}


.PARAM Vclip={2.49}
.PARAM VL={Vclip/2}
.PARAM VLFSO={-2.57/Rout}

GVDD1 0 G1 TABLE {V(VDD1,GND1)} = (3,-0.04615, 5.00,0.0, 18,0.3)
RG1 G1 0 {RG1}

GVDD2 0 G12 TABLE {V(VDD2,GND1)} = (3,0.0637284, 3.25217,0.0629519, 3.50652,0.0637284, 3.75000,0.0641975, 4.24783,0.0641975, 4.75217,0.0641975, 5.25217,0.0641975, 5.49783,0.0641975)
RG12 G12 0 {RG1}
G2 0 G2 VALUE = { Limit(V(INP,INN), -VL, VL) }
RG2 G2 0 {RG2}
G1 OUTN OUTP  VALUE = {IF ( V(FSO,GND1) < 0.5, (C0*(1 + V(G1))*(1 + (V(G12)-EGB))*TANH( B0*(V(G2) + A0) ) + D0), VLFSO) }
ROUT OUTP OUTN  RMOD2 {Rout}
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)

*Itemp 0 Temp 1
*RTemp Temp 0 RTemp 1
.MODEL RTemp RES (TC1={1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_LIM100_05_0 1 2
D1 1 2  D_Lim100_05
.ENDS
*$

.SUBCKT D_LIM1_0 1 2
D1 1 2  D_Lim1
.ENDS
*$

.SUBCKT Q_PMOS_OUT_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U
*_L1
M1 D G S B Q_PMOS_Out_L1 W = {W} L = {L} M = {M} 
*AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
*M1 D G S B Q_PMOS_Out W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
*+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT Q_NMOS_OUT_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} 
.ENDS
*$
.PARAM MinADel = {1n}

.SUBCKT HYSTCOMPGD_0 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Delay=1N
*
.PARAM Tdel = {MAX(Delay,MinADel)}
.Param Rdel = {IF ( (Tdel > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Tdel/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e6*Rdel}
.ENDS

.SUBCKT VOCMTEMP_0 1 2
.PARAM R0 = {1/1.44}
GVocmtemp 1 2 table {TEMP} = (-55,1.43532, -39.6341,1.43680, -24.8955,1.43778, -9.84321,1.43901, 4.89547,1.43975, 19.9477,1.44000, 
+ 35,1.44025, 49.8955,1.44037, 65.1045,1.44049, 80.1568,1.44025, 94.8955,1.43988, 109.948,1.43926, 124.686,1.43852)
Rout 1 2 {R0}
.ENDS

.SUBCKT Q_PMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_Out_L1 W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$

.SUBCKT Q_NMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$

.SUBCKT Q_NMOS_OUT_L1_2 D G S B PARAMS:  M = 1 W = 100U L = 10U
*M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS
*$

.SUBCKT D_LIM1_1 1 2
D1 1 2  D_Lim1
.ENDS
*$

.SUBCKT D_ZR_16V0_0 1    2
D1 1 2  D_Z16V0
.MODEL D_Z16V0 D( IS=18P N=2.0 BV=16.0 IBV=1.0M RS=8.33 T_ABS=25 )
.ENDS

.SUBCKT HYSTCOMPG_THLRF_0 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdlh=1N Tdhl=1N Trise=1N Tfall=1N 
* Trise ->   90%*(VoutH-VoutL), Tfall -> 10%*(VoutH-VoutL)
.PARAM Tdellh = {MAX(Tdlh,MinADel)}
.PARAM Tdelhl = {MAX(Tdhl,MinADel)}
.Param Rdel = {IF ( ((Tdellh > 1E-15)|(Tdelhl > 1E-15)) & (Rout < 1), 1, Rout ) } 
.Param Ro = {IF ( ((Trise > 1E-15)|(Tfall > 1E-15)) & (Rout < 1), 1, Rout ) } 
.Param VoutM={(VoutH+VoutL)/2}
.Param Tdmin= 1p
*.Param Cdel={Sqrt((Tdelhl+Tdmin)*(Tdellh+Tdmin))/(0.693*(Rdel+1u))}
.Param Cdel={Sqrt((Tdelhl+Tdmin)*(Tdellh+Tdmin))/(4.6*(Rdel+1u))}
.Param Gdlh={Sqrt((Tdelhl+Tdmin)/(Tdellh+Tdmin))/Rdel}
.Param Gdhl={(Tdellh+Tdmin)/(Tdelhl+Tdmin)*Gdlh}

.Param Cout={Sqrt(Tfall*Trise)/(2.287*(Ro+1u))}
.Param Gr={Sqrt(Tfall/(Trise+Tdmin))/Ro}
.Param Gf={(Trise+Tdmin)/Tfall*Gr}

.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}

*EVthrH VthrH 0 value = {4.35}
*EVthrL VthrL 0 value = {4.25}

Rinp inp gnd 1G
Rinm inm gnd 1G
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
*Gthr gnd thr Value= { IF ( V(out,gnd) < VoutM, V(VthrH), V(VthrL) ) }
Rthr gnd thr 1

Gouti gnd outi Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(outi,gnd))*Gdlh, (VoutL - V(outi,gnd))*Gdhl ) }
Couti outi gnd {Cdel}
Routi outi gnd {1e5*Rdel}

Gthro gnd thro Value= { IF ( V(out,gnd) < VoutM, VoutH*0.99, VoutH*0.01 ) }
Rthro gnd thro 1
*Gout gnd out Value= { IF ( (V(outi, gnd) > VoutM), (VoutH - V(out,gnd))*Gr, (VoutL - V(out,gnd))*Gf ) }
Gout gnd out Value= { IF ( (V(outi, gnd) > V(thro,gnd)), (VoutH - V(out,gnd))*Gr, (VoutL - V(out,gnd))*Gf ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Ro}
.ENDS

.SUBCKT IIB_0 1 2 Vdd Gnd
.PARAM Rtemp = {1/1}
.PARAM RVdd = {1/3.5}
.PARAM DIib_DT= {30.0p}
*GVocmtemp 0 10 table {TEMP} = (-55,3.84236, -25.2609,3.76847, 4.79130,3.62069, 24.5130,3.50985, 34.9478,3.49754, 49.7130,3.47291, 64.7391,3.47291, 79.7130,3.49754, 94.6348,3.69458, 109.661,3.95320, 124.374,4.35961)
GVocmtemp 0 10 table {TEMP} = (-40,5.45, 25,3.5, 125,0.5)
R1 10 0 { Rtemp}
*GIibvdd 0 20 table {V(Vdd,Gnd)} = (0,0, 3,1.73219, 3.49652,2.24816, 3.99739,2.61671, 4.50261,3.13268, 5.00348,3.50123, 5.50000,3.86978)
GIibvdd 0 20 table {V(Vdd,Gnd)} = (0,0, 3,3.50, 5.50000,3.50)
R2 20 0 {RVdd}
GIib 2 1 Value = { V(20)*V(10)*1n}
.ENDS

.SUBCKT HYSTCOMPGD_1 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Delay=1N
*
.PARAM Tdel = {MAX(Delay,MinADel)}
.Param Rdel = {IF ( (Tdel > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Tdel/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT VOST_0 1 2
*VOS Input offset voltage
*TCVOS Input offset drift AMC135X ±3µV/°C
.PARAM I0 = {1M*Sgn(VOFFS)}
.PARAM Din= 5
.PARAM DVOS_DT= {-3.0U/Din}

.PARAM VOFFS = {(-400u - 31.3u)/Din + 2*DVOS_DT}
.PARAM R0 = {Abs(VOFFS/I0)}
.PARAM TC1= {DVOS_DT/R0/I0}

R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
E3 1 2 40 0 1
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_D4_0 1    2
D1 1 2  DD
.MODEL DD D( IS=10n N=0.50 RS=1 XTI=0 Eg=0.35)
.ENDS

.SUBCKT D_ZB1_0 1    2
D1 1 2  D_4_9V
CD 1 2 10P
.MODEL D_4_9V D( IS=1n N=1.0 BV=2.4 IBV=1.0m RS=0 XTI=0 EG=0.55)
.ENDS 
.MODEL D_LIM1T D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=0.555)
*Parameters: 0.4um CMOS
.PARAM LS = 1.0U
.PARAM VTOHP = 0.75
.PARAM VTOHN = 0.75
.PARAM LAMBDA = 10M
.PARAM GAMMA = 0.00
.PARAM KAPPA = 1.0
.PARAM THETA = 0.23
.PARAM ETA = 3
.PARAM KPN = {UON*COX * 1e-4}
.PARAM KPP = {UOP*COX * 1e-4}
.PARAM LDN = 0.09U
.PARAM LDP = 0.09U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM RDS = 10MEG
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0 
.PARAM CBDS = 1.0
.PARAM CGBF = 1.0
.PARAM PBP = 0.7
.PARAM PBN = 0.7
.PARAM UON = 450
.PARAM UOP = 450
*.PARAM UOP = 150
*
.PARAM CJN = {200U}
.PARAM CJP = {400U} 
.PARAM CJSWN = {1.2N}
.PARAM CJSWP = {2.4N}
.PARAM XJN = 0.15U
.PARAM CGSON = {0.6*XJN*COX} 
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.18U
.PARAM CGSOP = {0.6*XJP*COX} 
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM TOX = 80E-10
.PARAM COX = {EPSSIO2/TOX}
*$
.MODEL Q_NMOS NMOS Level=1 L=2U W=10U KP={KPN} VTO={VTOHN}  AF=0 KF=0
*$
.MODEL Q_PMOS PMOS Level=1 L=2U W=10U KP={KPP} VTO={-VTOHP}  AF=0 KF=0
*$
.MODEL Q_NMOS_Out_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN}
*$
.MODEL Q_NMOS_Out NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA={THETA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
*$
.MODEL Q_PMOS_Out_L1 PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOHP} LAMBDA={LAMBDA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP}  
*$
.MODEL Q_PMOS_Out PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA={THETA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP}  TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
*$
.MODEL D_Lim1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim100 D( IS=10F N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim1005 D( IS=10F N=0.5 RS=100 XTI=0 AF=0 KF=0 EG=0.555)
*$
.MODEL D_Lim100_05 D( IS=10F N=0.5 RS=100 XTI=0 AF=0 KF=0 EG=0.555)
*$
.MODEL D_Lim10 D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim2 D( IS=10f N=0.5 RS=1 XTI=0 AF=0 KF=0 EG=0.555 )
*$
.MODEL D_Lim3 D( IS=1E-18 N=1.0 RS=1 XTI=0 AF=0 KF=0)
*$
.MODEL D_Lim4 D( IS=10F N=1.0 RS=1m XTI=0 AF=0 KF=0)
*$
.MODEL D1 D( IS=1p N=1.0 RS=0 XTI=3 AF=0 KF=0 )
*$
.MODEL DZ_14V D( IS=1p N=1.0 BV=14.0 IBV=5.0M XTI=0 RS=10)
.MODEL DZ_80V D( IS=1p N=1.0 BV=80.0 IBV=5.0M XTI=0 RS=10)
*$
.MODEL D2 D( IS=1p N=1.0 XTI=0 RS=10)

