*$
*  ATL431A
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: ATL431A
* Date: 15JAN2019
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: ATL431EVM
* EVM Users Guide: SLVUAE7 – April 2015
* Datasheet: SLVSCV5D –MARCH 2015–REVISED OCTOBER 2016
*
* Model Version: Final 1.40
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
* Final 1.10
* Reference voltage kept at 2.5V DC
* Changed the Cathode reverse voltage from 2V to 1.5V
*
* Final 1.20
* AC Response modeled as per new datasheet
* Reference Input current modeled
*
* Final 1.30
* The IKA v/s VKA modeling changed
*
* Final 1.40
* 1. The main loop is kept same as TL431A
* 2. Model changes done to fix issue in Line transient
*
*****************************************************************************
*
* Model Usage Notes:
* 1. The following features have been modeled and Validated.
*      a. Maximum Cathode Voltage.
*      b. Minimum Cathode current for regulation.
*      c. OFF STATE CATHODE CURRENT
*      d. CATHODE VOLTAGE v/s CATHODE CURRENT
*      e. PULSE RESPONSE
*      f. Noise Analysis
*      g. Reference Input Current
*      h. Input Transient
*      i. Regulation for negative supply
*      j. Dynamic Impedance
*      k. Open Loop Response
*      l. Shunt Regulation behaviour
* 2. Temperature effects are not modeled. 
* 3. AC analysis or loop behaviour is not modeled.
*
*****************************************************************************
.SUBCKT ATL431A_TRANS CATHODE REF ANODE   
R_R1         6 2  15.6  
E_E27         REF_INT 0 VALUE { IF(V(FB_INT,0)<2.45,V(FB_INT,0),V(1)) }
R_R10         E1 6  1  
E_E1         N23666 6 2 6 1
E_ABM45         N15048350 0 VALUE { if(V(REF)>0,LIMIT(((V(B1)-V(E1))*7.2),2.5,
+  0),0.004625)    }
D_D11         5 8 DCLAMP 
E_E28         FB_INT 0 REF 6 1
E_E31         1 0 N15048350 0 1
D_D12         7 8 DCLAMP 
X_U6         REF N17052054 vnse
V_V1         N17052054 11 0Vdc
V_V2         5 6 2
R_R8         N15048182 N15048218  10  
G_G4         6 2 REF_INT 11 110m
V_V3         7 CATHODE 0Vdc
V_V6         N15048182 6 100
V_V4         6 ANODE 0Vdc
R_R9         B1 REF  54Meg  
C_C1         6 2  0.5u  TC=0,0 
G_ABM2I4         6 8 VALUE { LIMIT(IF((V(N23666)-V(6))< 0 ,
+  1.73*(V(N23666)-V(6)) -0.037u, -0.037u),-100m,-8u*V(1,6))    }
X_U9         N15048218 B1 E1 bjt PARAMS:
.ENDS ATL431A_TRANS
*$
.model DCLAMP d
+ is=1.35e-008
+ rs=0.025
+ n=1.59
+ cjo=4.5e-011
+ vj=0.75
+ m=0.302
+ tt=5.04e-008
+ bv=34
+ ibv=0.001
*$
.subckt vnse 1 2
.PARAM NLF=1000
.PARAM FLW=13
.PARAM NVR=200
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={15*PWR(FLW,0.2)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ends vnse
*$
.subckt bjt 3 2 1
q1 3 2 1 npn_1 
.model npn_1 npn
+ bf=450
+ is=1e-019
.ends bjt
*$